US06410592B1
Step G: cis-6-Fluoro-2-methylaminomethyl-1-phenyl-1,2,3,4-tetrahydronaphthalene hydrochloride
To a mixture of 2-(N-benzylmethylamino)methyl-6-fluoro-1-phenyl-3,4-dihydronaphthalene (0.95 g) in ethyl alcohol (50 cm3) and hydrochloric acid (5 M, 1 cm3) was added palladium on charcoal (5%, 0.25 g). The resultant mixture was stirred under an atmosphere of hydrogen at a pressure of 2 atm at room temperature for 60 h. The catalyst was removed by filtration through a pad of Dicalite® and the solvent was evaporated under reduced pressure to provide the title compound (0.75 g) as a white solid.

reactant | 2-(N-benzylmethylamino)methyl-6-fluoro-1-phenyl-3,4-dihydronaphthalene | 0.95 g | C(C1=CC=CC=C1)CNCC1=C(C2=CC=C(C=C2CC1)F)C1=CC=CC=C1 | C25H24FN
reactant | hydrochloric acid | 5 M, 1 cm3 | Cl | ClH
solvent | ethyl alcohol | 50 cm3 | C(C)O | C2H6O
catalyst | palladium on charcoal | 0.25 g | [Pd] | Pd
product | cis-6-Fluoro-2-methylaminomethyl-1-phenyl-1,2,3,4-tetrahydronaphthalene hydrochloride | 0.75 g | Cl.FC=1C=C2CC[C@@H]([C@@H](C2=CC1)C1=CC=CC=C1)CNC | InChI=1S/C18H20FN.ClH/c1-20-12-15-8-7-14-11-16(19)9-10-17(14)18(15)13-5-3-2-4-6-13;/h2-6,9-11,15,18,20H,7-8,12H2,1H3;1H/t15-,18+;/m1./s1
